US04302607
Acetylene was bubbled through ca. 300 ml of liquid ammonia while 8.1 g (0.35 atom) of sodium was added in small pieces. After the disappearance of the blue color, dimethylsulfoxide (150 ml) was added cautiously. 1,1-Dimethoxy-6-iodohexane (81.6 g; 0.3 Mole) was then added over a period of 10 min. while acetylene was bubbled through the stirred mixture. The ammonia was allowed to evaporate and was replaced with ether. When the mixture had reached 0°, dilute NH4Cl solution was added. The organic layer was separated, washed with water, dried (Na2SO4), and evaporated. Distillation of the residue gave 48.9 g (96%) of 1,1-dimethoxy-oct-7-yne, b.p. 91°/8 Torr.

reactant | 1,1-Dimethoxy-6-iodohexane | 0.3 Mole, 81.6 g | COC(CCCCCI)OC | C8H17IO2
reactant | acetylene | C#C | C2H2
product | 1,1-dimethoxy-oct-7-yne | 48.9 g, 96% | COC(CCCCCC#C)OC | C10H18O2
